Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Demerol / Ativan / Shellfish Derived
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with a history of pancreas transplant ___ for 
diabetes type I and recurrent gastroparesis, presents with 
nausea, vomiting and abdominal pain.

Last night he ate a meal with more solid foods than usual.  This 
morning he woke up with severe abdominal pain and nausea.  He 
describes the pain as ___ in intensity, in the epigastrum and 
periumbilical areas.  He says the pain is similar to his prior 
epsiodes of gastroparesis.  He describes 20 episodes of clear 
and bilious emesis, no hematemesis or coffee ground emesis.  
Denies fever, chills, diarrhea, constipation, BRBPR, or melena.  
He presented to the ___, where he was given 6mg 
dilaudid IV and 4mg zofran IV, and was tranferred to ___.

In the ___ vital signs were T 98.5, P ___, BP 131/84, RR 22, 
O2sat 100.  Pain described as ___.  Transplant surgery was 
contacted, and did not feel he needed evaluation in the ___ as 
his symptoms are so similar to previous presentations.  He was 
then admitted to the transplant nephrology service.
 
Past Medical History:
Pancreatic transplant ___  
DM2 c/b gastroparesis, peripheral neuropathy  
Hep C  
Glaucoma  
?Seizures  
Right knee surgery 

 
Social History:
___
Family History:
NC
 
Physical Exam:
Physical Exam:  
Vitals: T: 98.3 BP: 143/73 P: 100 R: 18 O2: 99% on RA  
General: Alert, oriented, moans in pain, will not answer 
questions  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-distended, bowel sounds present, diffusely 
tender, voluntary guarding, no rebound tenderness, no 
organomegaly, no tenderness over pancreatic graft, well healed 
surgical scars  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
On admission:

U/A
COLOR-Straw 
APPEAR-Clear 
SP ___
BLOOD-NEG 
NITRITE-NEG 
PROTEIN-NEG 
GLUCOSE-NEG 
KETONE-NEG 
BILIRUBIN-NEG 
UROBILNGN-NEG 
PH-7.0 
LEUK-NEG

Serum chemistries
GLUCOSE-124* 
UREA N-13 
CREAT-0.8 
SODIUM-142 
POTASSIUM-4.0 
CHLORIDE-106 
TOTAL CO2-25 
ANION GAP-15
ALT(SGPT)-12 
AST(SGOT)-14 
ALK PHOS-103 
TOT BILI-0.2
LIPASE-22

Complete Blood Count
WBC-6.9# 
RBC-4.57* 
HGB-12.8* 
HCT-38.5* 
MCV-84 
MCH-28.0 
MCHC-33.3 
RDW-13.7
NEUTS-93.2* 
LYMPHS-4.8* 
MONOS-0.9* 
EOS-1.0 
BASOS-0.2
PLT COUNT-359

Additional Labs:

___ 05:40AM BLOOD tacroFK-6.3 rapmycn-3.4*
___ 05:00AM BLOOD tacroFK-6.3
___ 05:20AM BLOOD tacroFK-7.9 rapmycn-5.2
___ 05:20AM BLOOD tacroFK-8.0 rapmycn-6.1
___ 06:30PM BLOOD Lipase-22
___ 05:40AM BLOOD Lipase-19
___ 05:00AM BLOOD Lipase-19
___ 05:20AM BLOOD Lipase-20
___ 05:20AM BLOOD Lipase-22

Abdominal X-ray ___:
FINDINGS: Three frontal radiographs of the abdomen are obtained. 
The bowel
gas pattern reveals a moderate amount of gas throughout the 
colon with no
evidence of obstruction or ileus. Chain sutures and metallic 
clips projecting
in the right pelvis are consistent with history of pancreatic 
transplant.
There is no free gas or pneumatosis. The included osseous 
structures are
unremarkable.
 
IMPRESSION: Non-obstructive bowel gas pattern.

 
Brief Hospital Course:
#. Abdominal Pain/Nausea and Vomiting.  In the emergency patient 
was treated with dilaudid IV which relieved his symptoms.  An 
abdominal x-ray was unremarkable.  On the floor, he tolerated PO 
intake and advanced to a regular diet.  His pain was treated 
with his home dose fentanyl patch and PO dilaudid.   His dose of 
dilaudid was gradually reduced from ___ PO q 3 hours to 1 mg 
PO q 4 hours.  As gastroenterology was consulted on a prior 
admission and did not believe that his recurrent presentations 
were consistent with gastroparesis, it was considered that 
narcotics dependence may be a significant part of his current 
presentation.  Social work was consulted and considered both 
inpatient and outpatient detoxification options.  Patient did 
not qualify for outpatient detox programs, as he is currently 
taking large doses of diazepam.  Inpatient detox was an option 
but there was no availability for ___ days.  Patient preferred 
to enroll at a later date, and was discharged with no additional 
prescriptions for narcotics.

#. s/p pancreas transplant.  On admission his serum tacrolimus 
level was therapeutic at 6.4, and his serum rapamune level was 
3.4 which was subtherapeutic.  He was given his home doses of 
tacrolimus 3 mg PO bid and rapamune 4 mg PO daily, and his serum 
levels of both drugs remained in the therapeutic range for the 
rest of his hospitalization. Serum and amylase levels were 
normal throughout this hospitalization.
 
Medications on Admission:
1. Tacrolimus 1 mg Capsule Sig: Three (3) Capsule PO Q12H (every 
12 hours).  
2. Sirolimus 1 mg Tablet Sig: Four (4) Tablet PO DAILY (Daily).  

3. Topiramate 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for headache.  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
5. Diazepam 10 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.  
6. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
7. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
9. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
10. Dronabinol 10 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
11. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
12. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
14. Metoclopramide 10 mg Tablet Sig: Two (2) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)).  

 
Discharge Medications:
1. Tacrolimus 1 mg Capsule Sig: Three (3) Capsule PO Q12H (every 
12 hours).  
2. Sirolimus 1 mg Tablet Sig: Four (4) Tablet PO DAILY (Daily).  

3. Topiramate 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for headache.  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
5. Diazepam 10 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.    
7. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
9. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
10. Dronabinol 10 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
11. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
12. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
14. Metoclopramide 10 mg Tablet Sig: Two (2) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)).  

NOTE: No prescription was given for any narcotic pain relievers.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain

Abdominal Pain

 
Discharge Condition:
Stable

Stable

 
Discharge Instructions:
You were admitted with abdominal pain.  Blood was drawn, and all 
lab tests were normal.  Specifically the level of your 
immunosupressant medications for your kidney transplant were 
appropriate, and there was no sign of transplant rejection.

Please continue to take all medications as you have been 
prescribed. 

 
Please keep all outpatient appointments.

 
Seek medical advice if you develop fever, chills, difficulty 
breathing, abdominal pain, confusion, skin breakdown or any 
other symptoms that are concerning for you. 
 
 
Followup Instructions:
___